US05478833
Mesaconitine 70 mg was dissolved in 5 ml of methanol. To this solution, 1 ml of 5% potassium hydride was added, and the mixture was heated under reflux for 3 hours. After methanol in the reaction mixture was distilled off, 5 ml of water was added to the residue and the mixture was extracted three times with 10 ml of methylene chloride. The extract was dried over anhydrous sodium sulfate and concentrated to dryness under reduced pressure. The residue was subjected to thin-layer chromatography for separation and purification (eluting solvent: 10% methanol/ammonia-saturated chloroform) to give mesaconine (30 mg). 14-O-p-Chlorobenzoylmesaconine 20 mg was obtained in the same manner as in Example 90, except for the use of 30 mg of mesaconine and 30 mg of p-chlorobenzoyl chloride as each substitute for 30 mg of aconine and 30 mg of m-chlorobenzoyl chloride in Example 90.

reactant | Mesaconitine | 70 mg | CC(=O)O[C@@]12[C@@H]3[C@@H](C[C@@]([C@@H]3OC(=O)C4=CC=CC=C4)([C@H]([C@@H]1O)OC)O)[C@]56[C@H](C[C@H]([C@@]7([C@H]5[C@H]([C@H]2C6N(C7)C)OC)COC)O)OC | C33H45NO11
reactant | potassium hydride | 1 ml | [H-].[K+]
solvent | methanol | 5 ml | CO | CH4O
product | mesaconine | 30 mg | CN1C[C@@]2([C@@H](C[C@@H]([C@@]34[C@@H]2[C@H]([C@@H]([C@H]31)[C@@]5([C@@H]6[C@H]4C[C@@]([C@@H]6O)([C@H]([C@@H]5O)OC)O)O)OC)OC)O)COC | C24H39NO9
